US08076334B2
A solution of 2-[3,5-dichloro-4-(1-chloromethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile (0.64 mmol) in acetonitrile (18 mL) at 25° C. was treated with cyclopentanecarboxylic acid (73.4 μL, 0.67 mmol) followed by silver (I) oxide (155.4 mg, 0.67 mmol). The reaction mixture was stirred at 25° C. in the dark for 3 d. At this time, the reaction was filtered through a pad of celite® and was rinsed with a solution of 90/10 methylene chloride/methanol (1×100 mL). The filtrate was then concentrated in vacuo. Biotage flash chromatography (40S, 0.5-1.25% methanol/methylene chloride) followed by reverse phase chromatography (Pursuit C-18 column, acetonitrile gradient with trifluoroacetic acid) followed by lyophilization afforded cyclopentanecarboxylic acid 3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl ester (75.7 mg, 21%) as an off-white solid. ES+-HRMS m/e calcd for C24H22N6O6Cl2 (M+Na+) 583.0870, found 583.0871.

reactant | 2-[3,5-dichloro-4-(1-chloromethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile | 0.64 mmol | ClC=1C=C(C=C(C1OC1=NN(C(C(=C1)C(C)C)=O)CCl)Cl)N1N=C(C(NC1=O)=O)C#N | C18H13Cl3N6O4
reactant | cyclopentanecarboxylic acid | 0.67 mmol, 73.4 μL | C1(CCCC1)C(=O)O | C6H10O2
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
catalyst | silver (I) oxide | 0.67 mmol, 155.4 mg | [Ag-]=O
product | cyclopentanecarboxylic acid 3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl ester | 75.7 mg, 21% | ClC1=C(OC2=NN(C(C(=C2)C(C)C)=O)COC(=O)C2CCCC2)C(=CC(=C1)N1N=C(C(NC1=O)=O)C#N)Cl | C24H22Cl2N6O6
